US07456195B2
(2-(Azepan-1-ylsulfonyl)phenyl)methanamine hydrochloride salt
A (125 mg) was prepared in two steps from 2-cyanobenzene-1-sulfonyl chloride (100 mg) and azepane in 82% overall yield following procedures analogous to those used in the preparation of 2-(aminomethyl)-N-tert-butyl-N-methylbenzenesulfonamide hydrochloride salt. LC-MS: 269.25 (M+H)+.

reactant | 2-cyanobenzene-1-sulfonyl chloride | 100 mg | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | azepane | N1CCCCCC1 | C6H13N
reactant | 2-(aminomethyl)-N-tert-butyl-N-methylbenzenesulfonamide hydrochloride salt | Cl.NCC1=C(C=CC=C1)S(=O)(=O)N(C)C(C)(C)C
product | (2-(Azepan-1-ylsulfonyl)phenyl)methanamine hydrochloride salt | Cl.N1(CCCCCC1)S(=O)(=O)C1=C(C=CC=C1)CN | InChI=1S/C13H20N2O2S.ClH/c14-11-12-7-3-4-8-13(12)18(16,17)15-9-5-1-2-6-10-15;/h3-4,7-8H,1-2,5-6,9-11,14H2;1H
